US06951879B2
According to the method in example 31, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophene and Allyl-methyl-amine were converted to yield Allyl-{4-[3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophen-6-yloxy]-butyl}-methyl-amine, MS: 444 (MH+, 1Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC(=C2C2=CC=C(C=C2)Br)C)C1 | C19H18Br2OS
reactant | Allyl-methyl-amine | C(C=C)NC | C4H9N
product | Allyl-{4-[3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophen-6-yloxy]-butyl}-methyl-amine | C(C=C)N(C)CCCCOC=1C=CC2=C(SC(=C2C2=CC=C(C=C2)Br)C)C1 | C23H26BrNOS
